### PR TITLE
[Merged by Bors] - feat(Archive): proof of the Robbins conjecture

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Cf. [#mathlib4 > Alternative axiomatization of boolean algebras @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Alternative.20axiomatization.20of.20boolean.20algebras/near/558900960) and #31924.

### CODE REVIEW

**Comment by chrisflav** [comment]
I have asked a question on Zulip [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Alternative.20axiomatization.20of.20boolean.20algebras/near/587820002), so marking `awaiting-zulip` for now.

File: Archive/Robbins.lean [hunk 1]
```diff
@@ -0,0 +1,406 @@
...
+
+lemma add_self : a + a = a := by
+  conv_rhs => rw [← neg_neg a, ← huntington (-a) (-a)]
+  rw [add_comm _ (-a), add_neg_self, neg_one, add_zero, neg_neg, neg_neg]
+
+lemma inf_le_left : -(-a + -b) + a = a := by
+  nth_rw 2 [← huntington a b]
+  rw [← add_assoc, add_self, huntington]
+
+lemma inf_sup_left : -(-a + -(b + c)) = -(-a + -b) + -(-a + -c) := by
```
Comment (jcommelin) [inline Archive/Robbins.lean]: The lemmas above all use algebra names: `neg_neg`, `add_neg_self`, `add_self`, etc...
Shouldn't these two stick to that pattern?

Comment (Parcly-Taxel) [reply Archive/Robbins.lean]: I have renamed these lemmas using `min` for `fun a b => -(-a + -b)`, since this corresponds to `⊓` (`min`).

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
